US04016165
In the manner given in Example 1, 7-(trifluoromethyl) -2-hydrazino-5-phenyl-3H-1,4-benzodiazepine can be reacted with bromopropanone to give 7-(trifluoromethyl)-2-[ (2-bromo-1-methylethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-(trifluoromethyl) -2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1)(F)F | C16H13F3N4
reactant | bromopropanone | BrCC(C)=O | C3H5BrO
product | 7-(trifluoromethyl)-2-[ (2-bromo-1-methylethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NN=C(CBr)C)C2=CC=CC=C2)C1)(F)F | C19H16BrF3N4
